US06313122B1
A. 5-Chloro-2-nitro-N-(2-pyridyl)benzamide
To a stirring solution of 5-chloro-2-nitrobenzoic acid (15 g, 74 mmol) in dichloromethane (300 mL) was added DMF (a few drops) followed by oxalyl chloride (11.3 g, 89 mmol). After stirring for 2 h, the solvent was removed in vacuo and the residue was redissolved in dichloromethane (300 mL). To this stirring solution was added pyridine (17.5 g, 222 mmol), followed by 2-aminopyridine (7 g, 74 mmol). After 24 h, the solvent was removed in vacuo and the residue was partitioned between ethyl acetate and water. The organic phase was separated and washed twice with 1 M citric acid, once with brine, twice with satd aq NaHCO3, and once with brine. The organic phase was then dried (MgSO4), filtered and concentrated in vacuo to a volume of about 25 mL, then diluted with diethyl ether, and sonicated. The resulting precipitate was filtered and dried in vacuo to give 8.63 g (42%) of an off-white solid.

reactant | 5-chloro-2-nitrobenzoic acid | 74 mmol, 15 g | ClC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4ClNO4
reactant | oxalyl chloride | 89 mmol, 11.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 222 mmol, 17.5 g | N1=CC=CC=C1 | C5H5N
reactant | 2-aminopyridine | 74 mmol, 7 g | NC1=NC=CC=C1 | C5H6N2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
product | 5-Chloro-2-nitro-N-(2-pyridyl)benzamide | 8.63 g, 42% | ClC=1C=CC(=C(C(=O)NC2=NC=CC=C2)C1)[N+](=O)[O-] | C12H8ClN3O3
